US05112947
(2) Boc-Pro-Arg(NO2)-Gly-NH2
The desired compound was prepared from 6.0 g of Boc-Arg(NO2)-Gly-NH2, 40 ml of 4N HCl-AcOEt, 3.4 ml of Et3N and 5.1 g of Boc-Pro-OSu in the same manner as in Example 26-(4).

reactant | Boc-Arg(NO2)-Gly-NH2 | 6.0 g | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)NCC(=O)N)C(=O)OC(C)(C)C | C13H25N7O6
reactant | HCl AcOEt | 4N, 40 ml | Cl.CCOC(=O)C
reactant | Boc-Pro-OSu | 5.1 g | N1([C@H](C(=O)ON2C(=O)CCC2=O)CCC1)C(=O)OC(C)(C)C | C14H20N2O6
solvent | Et3N | 3.4 ml | CCN(CC)CC | C6H15N
product | Boc-Pro-Arg(NO2)-Gly-NH2 | N1([C@H](C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)NCC(=O)N)CCC1)C(=O)OC(C)(C)C | C18H32N8O7
